US20010044070A1
Synthesis of 2-Methyl-2-Adamantyl Methacrylate/2-Norbornene/Maleic Anhydride Copolymer (Resin AY)
2-Methyl-2-adamantyl methacrylate, 2-norbornene and maleic anhydride were charged at a molar ratio of 4:3:3 (58.2 g:18.8 g:19.6 g). Thereto, tetrahydrofuran, the amount thereof being two times by weight based on the whole monomers, was added to form a monomer solution, followed by raising the temperature to 65° C. under nitrogen atmosphere. Then, was added azobisisobutyronitrile as an initiator in an amount of 3 mol % based on the whole monomer, and the resulting mixture was kept at 65° C. for 15 hours with stirring. Thereafter, the reaction mass was poured into a large amount of methanol to cause precipitation. This operation was repeated three times. A copolymer having a molecular weight of about 4710 and a molecularweight dispersion of 1.49 was obtained( 61.9 g, yield 64.1%). This is called Resin AY.

reactant | 2-Methyl-2-adamantyl methacrylate | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)C | C15H22O2
reactant | 2-norbornene | C12C=CC(CC1)C2 | C7H10
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Methyl-2-Adamantyl Methacrylate 2-Norbornene Maleic Anhydride | yield 64.1% | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)C.C12C=CC(CC1)C2.C1(\C=C/C(=O)O1)=O | InChI=1S/C15H22O2.C7H10.C4H2O3/c1-9(2)14(16)17-15(3)12-5-10-4-11(7-12)8-13(15)6-10;1-2-7-4-3-6(1)5-7;5-3-1-2-4(6)7-3/h10-13H,1,4-8H2,2-3H3;1-2,6-7H,3-5H2;1-2H
